US08168834B2
A reaction flask was charged with 3-(4-propyl-phenyl)-propionaldehyde (147 g, prepared as above), methanol (500 mL), and TMOF (90 g). The reaction mass was cooled to 0° C. and hydrochloric acid (37%, 1 g) was added in one portion. The reaction was exothermic and the temperature rose to 23° C. The reaction mass was quenched with sodium methoxide in methanol (25%, 10 g) and the solvent was removed by evaporation. The crude intermediate product 3-(4-propyl-phenyl)-propionaldehyde dimethylacetal was provided and confirmed by the NMR analysis. 3-(4-Propyl-phenyl)-propionaldehyde dimethylacetal was further treated with phosphoric acid (10 g) and pyridine (8 g) at 200° C. The reaction mass was aged for 4 hours, during which methanol was recovered in a Dean Stark trap. The reaction mass was then cooled and washed with aqueous sodium carbonate solution. Fractional distillation of the organic layer afforded the product 4-propyl 1-(3-methoxy-2-propen-1-yl)benzene (80 g), which had a boiling point of 101° C. at a pressure of 3 mmHg.

reactant | 3-(4-propyl-phenyl)-propionaldehyde | 147 g | C(CC)C1=CC=C(C=C1)CCC=O | C12H16O
reactant | TMOF | 90 g | C[C@@H](C(=O)N1CCC[C@H]1C(=O)N2CCC[C@H]2C(=O)N3CCC[C@H]3C(=O)N4CCC[C@H]4C(=O)N5CCC[C@H]5C(=O)N6CCC[C@H]6C(=O)O)NC(=O)[C@@H]7CCCN7C(=O)[C@H](CC(=O)O)NC(=O)[C@H](CC8=CC=C(C=C8)O)N | C51H70N10O14
reactant | hydrochloric acid | 1 g | Cl | ClH
reactant | methanol | 500 mL | CO | CH4O
product | 3-(4-propyl-phenyl)-propionaldehyde dimethylacetal | COC(CCC1=CC=C(C=C1)CCC)OC | C14H22O2
